US06498172B1
3-{3-[(4-Pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester.
The title compound of Step A was prepared from 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt, of Preparation 44, and 4-pyridin-3-yl-benzaldehyde, of Preparation 23, using the method described in Example 1, Step A. 1H NMR (400 MHz, CDCl3) δ 8.81 (d, 1H), 8.55 (dd, 1H), 7.84 (m, 1H), 7.53 (d, 2H), 7.44 (d, 2H), 7.33 (m, 1H), 7.26-7.18 (m, 3H), 7.07 (d, 1H), 3.84 (s, 2H), 3.79 (s, 2H), 3.64 (s, 3H), 2.92 (t, 2H), 2.61 (t, 2H); MS 361 (M+1).

reactant | 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt | Cl.COC(CCC1=CC(=CC=C1)CN)=O
reactant | 4-pyridin-3-yl-benzaldehyde | N1=CC(=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
product | 3-{3-[(4-Pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=CC1)=O | C23H24N2O2
